US09422332B2
To a solution of (S)-2,3-dihydro-1H-isoindole-1-carboxylic acid (2,6-difluoro-phenyl)-amide (160 mg, 412 μmol, Eq: 1.00), (S)-2-(tert-butoxycarbonylamino)-2-cyclohexylacetic acid (106 mg, 412 μmol, Eq: 1.00) and HATU (172 mg, 453 μmol, Eq: 1.1) in DMF (500 μL) at 0° C. was added DIEA (160 mg, 216 μL, 1.24 mmol, Eq: 3). The reaction was stirred at RT for 1 h, diluted with water and extracted with EtOAc. The combined organics were washed with water, brine, dried with MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography to give {(S)-1-cyclohexyl-2-[(S)-1-(2,6-difluoro-phenyl-carbamoyl)-1,3-dihydro-isoindol-2-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester (174 mg) as a white foam.

reactant | (S)-2,3-dihydro-1H-isoindole-1-carboxylic acid (2,6-difluoro-phenyl)-amide | 412 μmol, 160 mg | FC1=C(C(=CC=C1)F)NC(=O)[C@H]1NCC2=CC=CC=C12 | C15H12F2N2O
reactant | (S)-2-(tert-butoxycarbonylamino)-2-cyclohexylacetic acid | 412 μmol, 106 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C1CCCCC1 | C13H23NO4
reactant | HATU | 453 μmol, 172 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.24 mmol, 216 μL, 160 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 500 μL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | {(S)-1-cyclohexyl-2-[(S)-1-(2,6-difluoro-phenyl-carbamoyl)-1,3-dihydro-isoindol-2-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester | 174 mg | C(C)(C)(C)OC(N[C@H](C(=O)N1[C@@H](C2=CC=CC=C2C1)C(NC1=C(C=CC=C1F)F)=O)C1CCCCC1)=O | C28H33F2N3O4
